US05872137
A mixture of 2.27 g of 4-benzoyloxy-2,6-dichlorophenol, 1.29 g of 2-chlorobenzyl chloride, 1.21 g of potassium carbonate and 50 ml of N,N-dimethylformamide was stirred at 80° C. for 6 hours. The reaction mixture was cooled to room temperature, poured in ice water, and extracted twice with 50 ml of diethyl ether. The combined ether layer was washed with water, and dried with anhydrous magnesium sulfate, followed by removal of the solvent by distillation under reduced pressure. The residue was subjected to silica gel chromatography, which afforded 2.87 g of 1-benzoyloxy-4-(2-chlorobenzyloxy)-3,5-dichlorobenzene (88% yield).

reactant | 4-benzoyloxy-2,6-dichlorophenol | 2.27 g | C(C1=CC=CC=C1)(=O)OC1=CC(=C(C(=C1)Cl)O)Cl | C13H8Cl2O3
reactant | 2-chlorobenzyl chloride | 1.29 g | ClC1=C(CCl)C=CC=C1 | C7H6Cl2
reactant | potassium carbonate | 1.21 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-benzoyloxy-4-(2-chlorobenzyloxy)-3,5-dichlorobenzene | 2.87 g, 88% yield | C(C1=CC=CC=C1)(=O)OC1=CC(=C(C(=C1)Cl)OCC1=C(C=CC=C1)Cl)Cl | C20H13Cl3O3
